US06300325B1
c) Preparation of 4-amino-7-bromobenzotriazole
To a solution of 4-aminobenzotriazole(550 milligram (hereinafter “mg”), 4.1 mmol) in acetic acid (10 ml) was added potassium bromide (520 mg, 4.4 mmol ), ammonium molybdate(67 mg, 0.55 mmol) and hydrogen peroxide (0.5 ml, 30%). The mixture was stirred at 25° C. for 3 hors. The solvent was evaporated and chromatography of the resulting solid on silica gel (EtOAc/Hexane(1equiv./1equiv.)) gave the desired product(400 mg, 45%). 1H NMR (CD3SO2CD3): δ7.29 (d, 1H), 6.49 (d, 1H), 6.05 (bs, 3H).

reactant | 4-aminobenzotriazole | 4.1 mmol, 550 milligram | NC1=CC=CC=2NN=NC21 | C6H6N4
reactant | potassium bromide | 4.4 mmol, 520 mg | [Br-].[K+]
reactant | hydrogen peroxide | 0.5 ml | OO | H2O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | ammonium molybdate | 0.55 mmol, 67 mg | [NH4+].[NH4+].[O-][Mo](=O)(=O)[O-]
product | 4-amino-7-bromobenzotriazole | 400 mg, 45% | NC1=CC=C(C=2NN=NC21)Br | C6H5BrN4
